US07262185B2
(−)-4-(((1-propylimidazol-5-yl)methyl)sulfinyl)aniline di-p-toluoyl-D-tartarate 1hydrate (174 mg) was dissolved in ethyl acetate (5 ml) and 1N hydrochloric acid (1.77 ml) to separate the layers. To the aqueous layer was added 25% aqueous solution of potassium carbonate (1.77 ml) and the mixture was extracted with 2-propanol-ethyl acetate (1:4). The organic layer was washed with saturated brine, and dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. To the obtained residue was added tetrahydrofuran, and the solvent was distilled off again under reduced pressure to give (−)-4-(((1-propylimidazol-5-yl)methyl)sulfinyl)aniline. Then, to a solution of 7-[4-(2-butoxyethoxy)phenyl]-1-[(1-methylpyrazol-5-yl)methyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid (95 mg) in dichloromethane (10 ml) were added one droplet of DMF and oxalyl chloride (0.023 ml) under nitrogen atmosphere and the mixture was stirred for 30 minutes. This solution was added dropwise to a solution of (−)-4-(((1-propylimidazol-5-yl)methyl)sulfinyl)aniline and pyridine (0.42 ml) in tetrahydrofuran (10 ml), at 0° C. under nitrogen atmosphere. The mixture was allowed to be at room temperature and stirred for 3 hours, and water was added to the mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with 10% acetic acid solution twice, an aqueous solution of saturated sodium bicarbonate twice, and saturated brine once, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was separated and purified by basic silica gel column chromatography (ethyl acetate→ethyl acetate:methanol=11:1), to give (−)-7-[4-(2-butoxyethoxy)phenyl]-1-[(1-methylpyrazol-5-yl)methyl]-N-[4-[[[1-propylimidazol-5-yl]methyl]sulfinyl]phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxamide (81 mg) (Compound 455) as yellow amorphous.

reactant | (−)-4-(((1-propylimidazol-5-yl)methyl)sulfinyl)aniline di-p-toluoyl-D-tartarate | 174 mg | C1(=CC=C(C=C1)C(=O)[C@@]([C@@](C(=O)O)(O)C(=O)C1=CC=C(C=C1)C)(O)C(=O)O)C.C(CC)N1C=NC=C1CS(=O)C1=CC=C(N)C=C1
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | (−)-4-(((1-propylimidazol-5-yl)methyl)sulfinyl)aniline | C(CC)N1C=NC=C1CS(=O)C1=CC=C(N)C=C1 | C13H17N3OS
